US07268230B2
A mixture of 6-[3-(4-acetylpiperazin-1-yl)propoxy]-4-chloro-7-methoxyquinazoline (235 mg, 0.62 mmol), 5-hydroxyindazole (100 mg, 0.75 mmol), (prepared as described for the starting material in Example 29), and cesium carbonate (303 mg, 0.93 mmol) in acetone (20 ml) was heated at reflux for 2 hours. The mixture was filtered and the filtrate concentrated under reduced pressure. The residue was purified by column chromatography eluting with methylene chloride/methanol (95/5) to give 6-[3-(4-acetylpiperazin-1-yl)propoxy]-4-(1H-indazol-5-yloxy)-7-methoxyquinazoline (200 mg, 68%) as a pale green solid.

reactant | 6-[3-(4-acetylpiperazin-1-yl)propoxy]-4-chloro-7-methoxyquinazoline | 0.62 mmol, 235 mg | C(C)(=O)N1CCN(CC1)CCCOC=1C=C2C(=NC=NC2=CC1OC)Cl | C18H23ClN4O3
reactant | 5-hydroxyindazole | 0.75 mmol, 100 mg | OC=1C=C2C=NNC2=CC1 | C7H6N2O
reactant | cesium carbonate | 0.93 mmol, 303 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | acetone | 20 ml | CC(=O)C | C3H6O
product | 6-[3-(4-acetylpiperazin-1-yl)propoxy]-4-(1H-indazol-5-yloxy)-7-methoxyquinazoline | 200 mg, 68% | C(C)(=O)N1CCN(CC1)CCCOC=1C=C2C(=NC=NC2=CC1OC)OC=1C=C2C=NNC2=CC1 | C25H28N6O4
